US09062032B2
To a mixture of 203 mg of methyl 4-{2-[4-({[2-({3-[7-methyl-3,6-dioxo-10-(pentan-3-yl)-2,5-dioxa-7,10-diazaundecan-11-yl]benzoyl}amino)-4,5,6,7-tetrahydro-1-benzothiophen-3-yl]carbonyl}amino)phenyl]ethyl}benzoate, 4.0 mL of methanol and 4.0 mL of THF was added 1.5 mL of a 1.0 M aqueous sodium hydroxide solution at room temperature, followed by stirring for 14 hours at 60° C. 1.5 mL of 1.0 M hydrochloric acid was added to the reaction mixture under ice cooling, followed by concentration under reduced pressure. A mixed solvent (methanol/chloroform=15/85) was added to the residue, the insoluble material was filtered, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (15% methanol/chloroform). A mixed solvent (acetonitrile/water=90/10) was added to the obtained product, 0.5 mL of 1.0 M hydrochloric acid was added thereto under ice cooling, and the solvent was removed under reduced pressure. The residue was subjected to lyophilization, thereby obtaining 186 mg of 4-(2-{4-[({2-[(3-{[(2-{[(carboxymethoxy)carbonyl](methyl)amino}ethyl)(pentan-3-yl)amino]methyl}benzoyl)amino]-4,5,6,7-tetrahydro-1-benzothiophen-3-yl}carbonyl)amino]phenyl}ethyl)benzoic acid hydrochloride.

reactant | methyl 4-{2-[4-({[2-({3-[7-methyl-3,6-dioxo-10-(pentan-3-yl)-2,5-dioxa-7,10-diazaundecan-11-yl]benzoyl}amino)-4,5,6,7-tetrahydro-1-benzothiophen-3-yl]carbonyl}amino)phenyl]ethyl}benzoate | 203 mg | CN(C(OCC(OC)=O)=O)CCN(CC=1C=C(C(=O)NC=2SC3=C(C2C(=O)NC2=CC=C(C=C2)CCC2=CC=C(C(=O)OC)C=C2)CCCC3)C=CC1)C(CC)CC | C45H54N4O8S
reactant | methanol | 4.0 mL | CO | CH4O
reactant | sodium hydroxide | 1.0 M | [OH-].[Na+]
reactant | hydrochloric acid | 1.0 M, 1.5 mL | Cl | ClH
solvent | THF | 4.0 mL | C1CCOC1 | C4H8O
product | 4-(2-{4-[({2-[(3-{[(2-{[(carboxymethoxy)carbonyl](methyl)amino}ethyl)(pentan-3-yl)amino]methyl}benzoyl)amino]-4,5,6,7-tetrahydro-1-benzothiophen-3-yl}carbonyl)amino]phenyl}ethyl)benzoic acid hydrochloride | 186 mg | Cl.C(=O)(O)COC(=O)N(CCN(C(CC)CC)CC=1C=C(C(=O)NC=2SC3=C(C2C(=O)NC2=CC=C(C=C2)CCC2=CC=C(C(=O)O)C=C2)CCCC3)C=CC1)C | InChI=1S/C43H50N4O8S.ClH/c1-4-34(5-2)47(24-23-46(3)43(54)55-27-37(48)49)26-30-9-8-10-32(25-30)39(50)45-41-38(35-11-6-7-12-36(35)56-41)40(51)44-33-21-17-29(18-22-33)14-13-28-15-19-31(20-16-28)42(52)53;/h8-10,15-22,25,34H,4-7,11-14,23-24,26-27H2,1-3H3,(H,44,51)(H,45,50)(H,48,49)(H,52,53);1H
